US05068325
(E)-2-Amino-6-(3-(4-cyano-phenyl)allyl)-4,5,7,8-tetrahydro-6H-thiazolo[5,4-d]azepine
Prepared analogously to Example 1 from 2-amino-4,5,7,8-tetrahydro-6H-thiazolo[5,4-d]azepine, potassium carbonate and 4-cyano-cinnamyl bromide (melting point: 79°-82° C.) in anhydrous dimethylformamide for one hour at 20° C. After the dimethylformamide has been distilled off in vacuo, the evaporation residue is distributed between ethyl acetate and water. After drying, filtering and evaporation of the organic phase, the evaporation residue is crystallised from acetone and the crystals are washed with ether. Yield: 49% of theory, Melting point: 199°-205° C. (decomp.).

reactant | 2-amino-4,5,7,8-tetrahydro-6H-thiazolo[5,4-d]azepine | NC=1SC=2CCNCCC2N1 | C7H11N3S
reactant | potassium carbonate | C([O-])([O-])=O.[K+].[K+]
reactant | 4-cyano-cinnamyl bromide | C(#N)C1=CC=C(C=CCBr)C=C1 | C10H8BrN
solvent | dimethylformamide | CN(C=O)C | C3H7NO
product | (E)-2-Amino-6-(3-(4-cyano-phenyl)allyl)-4,5,7,8-tetrahydro-6H-thiazolo[5,4-d]azepine | Yield: 49% | NC=1SC=2CCN(CCC2N1)C\C=C\C1=CC=C(C=C1)C#N | C17H18N4S
